US07585886B2
A 1.05 g portion of 4-({[(3R,4S)-3-({(tert-butoxycarbonyl)[(1R)-1-(1-naphthyl)ethyl]amino}methyl)-4-phenylpyrrolidin-1-yl]carbonyl}oxy)benzoic acid was dissolved in 10 ml of 4 M hydrogen chloride/1,4-dioxane solution and stirred at room temperature for 1Hour, and then the reaction solution was concentrated under a reduced pressure. In order to remove excess hydrogen chloride, the residue was dissolved in chloroform and again concentrated under a reduced pressure. By suspending the thus obtained residue in THF-toluene, 784 mg of 4-({[(3S,4S)-3-({[(1R)-1-(1-naphthyl)ethyl]amino}methyl)-4-phenylpyrrolidin-1-yl]carbonyl}oxy)benzoic acid hydrochloride was obtained as a crude product. A 235 mg portion of the thus obtained crude product was suspended in THF-toluene and heated under reflux for 50 minutes, and then the resulting precipitate was collected by filtration to obtain 217 mg of 4-({[(3S,4S)-3-({[(1R)-1-(1-naphthyl)ethyl]amino}methyl)-4-phenylpyrrolidin-1-yl]carbonyl}oxy)benzoic acid hydrochloride as a white solid.

reactant | 4-({[(3R,4S)-3-({(tert-butoxycarbonyl)[(1R)-1-(1-naphthyl)ethyl]amino}methyl)-4-phenylpyrrolidin-1-yl]carbonyl}oxy)benzoic acid | C(C)(C)(C)OC(=O)N([C@H](C)C1=CC=CC2=CC=CC=C12)C[C@H]1CN(C[C@@H]1C1=CC=CC=C1)C(=O)OC1=CC=C(C(=O)O)C=C1 | C36H38N2O6
reactant | hydrogen chloride 1,4-dioxane | 4 M, 10 ml | Cl.O1CCOCC1
product | 4-({[(3S,4S)-3-({[(1R)-1-(1-naphthyl)ethyl]amino}methyl)-4-phenylpyrrolidin-1-yl]carbonyl}oxy)benzoic acid hydrochloride | 784 mg | Cl.C1(=CC=CC2=CC=CC=C12)[C@@H](C)NC[C@H]1CN(C[C@@H]1C1=CC=CC=C1)C(=O)OC1=CC=C(C(=O)O)C=C1 | InChI=1S/C31H30N2O4.ClH/c1-21(27-13-7-11-22-10-5-6-12-28(22)27)32-18-25-19-33(20-29(25)23-8-3-2-4-9-23)31(36)37-26-16-14-24(15-17-26)30(34)35;/h2-17,21,25,29,32H,18-20H2,1H3,(H,34,35);1H/t21-,25+,29-;/m1./s1
